US04539426
N-(3,5-Dimethoxyphenyl)-3-chloro-1-propanesulfonamide prepared in the preceding paragraph (16.56 g, 0.057 mol) was dissolved in xylene (300 mL) containing potassium carbonate (7.86 g, 0.057 mol) and N-methylhomoveratrylamine (11.13 g, 0.057 mol) and the reaction warmed and stirred three days. Filtration, stripping of solvent and chromatography on dry-column silica gel (1100 g) with 5% methanol/ethyl acetate provided crude N-(3,5-dimethoxyphenyl)-3-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]-1-propanesulfonamide (5.32 g).

reactant | N-(3,5-Dimethoxyphenyl)-3-chloro-1-propanesulfonamide | COC=1C=C(C=C(C1)OC)NS(=O)(=O)CCCCl | C11H16ClNO4S
reactant | potassium carbonate | 0.057 mol, 7.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylhomoveratrylamine | 0.057 mol, 11.13 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
solvent | xylene | 300 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3,5-dimethoxyphenyl)-3-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]-1-propanesulfonamide | 5.32 g | COC=1C=C(C=C(C1)OC)NS(=O)(=O)CCCN(C)CCC1=CC(=C(C=C1)OC)OC | C22H32N2O6S
